US04604389
N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-3-(4-dimethylaminophenylamino)-propylamine
The title compound is prepared from 3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-1-chloropropane and 3-(4-dimethylamino-phenylamino)-propylamine analogously to Example 1.

reactant | 3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-1-chloropropane | COC1=CC2=C(CC(N(CC2)CCCCl)=O)C=C1OC | C15H20ClNO3
reactant | 3-(4-dimethylamino-phenylamino)-propylamine | CN(C1=CC=C(C=C1)NCCCN)C | C11H19N3
product | N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-3-(4-dimethylaminophenylamino)-propylamine | COC1=CC2=C(CC(N(CC2)CCCNCCCNC2=CC=C(C=C2)N(C)C)=O)C=C1OC | C26H38N4O3
